US09120749B2
(6-bromo-4-((trans-4-(((2-hydroxyethyl)(methyl)amino)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
To a solution of (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate (361 mg, 0.75 mmol) and 2-(methylamino)ethanol (0.30 mL, 3.75 mmol) in acetonitrile (15 mL) was added N,N-diisopropylethylamine (1.0 mL, 5.8 mmol) and the reaction mixture was heated at 70° C. for 16 h. The solution was cooled to room temperature, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded the desired product (150 mg, 43%) as an off-white solid. ESI MS m/z 460 [C23H30BrN3O2+H]+

reactant | (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate | 0.75 mmol, 361 mg | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)Br)C(=O)C1CC1 | C21H25BrN2O4S
reactant | 2-(methylamino)ethanol | 3.75 mmol, 0.30 mL | CNCCO | C3H9NO
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (6-bromo-4-((trans-4-(((2-hydroxyethyl)(methyl)amino)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 150 mg, 43% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN(C)CCO | C23H30BrN3O2
